US07122670B2
Method C: N-(4-Chloro-5-trifluoromethyl-pyrimidin-2-yl)-N′,N′-dimethyl-benzene-1,4-diamine:
To a solution of 5-trifluoromethyl-2,4-dichloropyrimidine (500 mg; 2.3 mmol) in 1:1 DCE/t-BuOH (20 mL) was added Zinc chloride (5.1 mL of a 1 M solution in ether; 2.2 eq) at 0° C. After 1 hour, N,N-dimethyl-1,4-phenylenediamine (313 mg; 1 eq) was added followed by dropwise addition of a solution of triethylamine (279 mg; 1.1 eq) in 5 mL of DCE/t-BuOH. After stirring for 24 hours the reaction was concentrated. The product was obtained as a pale green solid (531 mg; 73%) following crystallization from 25% H2O/methanol. 1H NMR (DMSO-d6, 400 MHz) δ 2.83 (s, 6H), 6.69 (m, 2H), 7.39 (m, 2H), 8.65 (s, 1H), 10.32 (s, 1H); 13C NMR (CDCl3, 100 MHz) δ 161.3, 158.8 (br), 158.5 (br), 148.3, 128.2, 123.8 (q, J=268 Hz), 123.0, 113.1, 110.8 (br), 41.0; HPLC ret. time: 7.901 min. LRMS (M+) 317.3, 319.3.

reactant | 5-trifluoromethyl-2,4-dichloropyrimidine | 2.3 mmol, 500 mg | FC(C=1C(=NC(=NC1)Cl)Cl)(F)F | C5HCl2F3N2
reactant | N,N-dimethyl-1,4-phenylenediamine | 313 mg, 1 eq | CN(C1=CC=C(C=C1)N)C | C8H12N2
reactant | triethylamine | 279 mg, 1.1 eq | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
solvent | DCE t-BuOH | 5 mL | ClCCCl.CC(C)(C)O
catalyst | Zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | DCE t-BuOH | 20 mL | ClCCCl.CC(C)(C)O
product | N-(4-Chloro-5-trifluoromethyl-pyrimidin-2-yl)-N′,N′-dimethyl-benzene-1,4-diamine | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N(C)C | C13H12ClF3N4
